US07608633B2
B. 1-(4-Octylphenoxy)-3-(pyrazol-1-yl)propan-2-one
0.154 g (1.51 mmol) acetic anhydride is mixed with 5 ml absolute DMSO, stirred at room temperature for 10 min and added drop-wise to a solution of 0.050 g (0.152 mmol) 1-(4-octylphenoxy)-3-(pyrazol-1-yl)propan-2-ol in 10 ml absolute DMSO. Having stirred at room temperature for 18 hours, the solution is poured into a mixture of 5% sodium hydrogen carbonate solution and saturated NaCl solution (1:1, v/v) and hydrolyzed for 10 min. Four extractions using diethyl ether, combination of the organic phases, concentration to half the volume on the rotary evaporator, three wash steps with saturated NaCl solution, drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave as a crude product a yellowish solid which is purified on silica gel by means of column chromatography (flow agent: petroleum ether/ethyl acetate 90:10) and yields the product as a white solid.

reactant | acetic anhydride | 1.51 mmol, 0.154 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-octylphenoxy)-3-(pyrazol-1-yl)propan-2-ol | 0.152 mmol, 0.050 g | C(CCCCCCC)C1=CC=C(OCC(CN2N=CC=C2)O)C=C1 | C20H30N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 1-(4-Octylphenoxy)-3-(pyrazol-1-yl)propan-2-one | C(CCCCCCC)C1=CC=C(OCC(CN2N=CC=C2)=O)C=C1 | C20H28N2O2
